US07534788B2
Step 4: 5-(1-Isopropyl-piperidin-4-yloxy)-benzofuran-2-carboxylic acid ethyl ester
The above prepared 5-hydroxy-benzofuran-2-carboxylic acid ethyl ester (1.50 g, 7.27 mmol) was dissolved in 36 mL of THF and treated successively at 10° C. with 1-isopropyl-piperidin-4-ol (1.46 g, 1.4 eq.), triphenylphosphine (2.67 g, 1.4 eq.) and DIAD (2.00 mL, 1.4 eq.), and the mixture then kept at ambient temperature for another 3 h. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, NEt3/AcOEt=2/98), yielded finally 1.36 g of the title compound as light yellow oil.

reactant | 5-hydroxy-benzofuran-2-carboxylic acid ethyl ester | 7.27 mmol, 1.50 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)O | C11H10O4
reactant | 1-isopropyl-piperidin-4-ol | 1.46 g, 1.4 eq. | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | 2.67 g, 1.4 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 2.00 mL, 1.4 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 36 mL | C1CCOC1 | C4H8O
product | 5-(1-Isopropyl-piperidin-4-yloxy)-benzofuran-2-carboxylic acid ethyl ester | 1.36 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)OC2CCN(CC2)C(C)C | C19H25NO4
